US07659264B2
Step E. 3-Phenyl-2,8-diazaspiro[4.5]decan-1-one dihydrochloride
To a solution of tert-butyl 2-(tert-butylsulfinyl)-1-oxo-3-phenyl-2,8-diazaspiro[4.5]decane-8-carboxylate (21 mg, 0.048 mmol) in methanol (4 mL) was added 4N HCl in dioxane (4 mL). After 24 h the reaction was concentrated give the title compound). MS: m/z=231.1 (M+1).

reactant | tert-butyl 2-(tert-butylsulfinyl)-1-oxo-3-phenyl-2,8-diazaspiro[4.5]decane-8-carboxylate | 0.048 mmol, 21 mg | C(C)(C)(C)S(=O)N1C(C2(CC1C1=CC=CC=C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C23H34N2O4S
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-Phenyl-2,8-diazaspiro[4.5]decan-1-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1NC(C2(C1)CCNCC2)=O | InChI=1S/C14H18N2O.2ClH/c17-13-14(6-8-15-9-7-14)10-12(16-13)11-4-2-1-3-5-11;;/h1-5,12,15H,6-10H2,(H,16,17);2*1H
